US07235572B2
In analogy to the procedure described in example 3 a], 6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-3-propyl-1H-indole was reacted with tert-butyl bromoacetate in the presence of sodium hydride to obtain (6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-3-propyl-indol-1-yl)-acetic acid tert-butyl ester as colorless oil.

reactant | 6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-3-propyl-1H-indole | CC=1N=C(SC1CCOC1=CC=C2C(=CNC2=C1)CCC)C1=CC=C(C=C1)C(F)(F)F | C24H23F3N2OS
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydride | [H-].[Na+]
product | (6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-3-propyl-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OCCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CCC)=O | C30H33F3N2O3S
